US08497274B2
(iii) Production of N-{5-[(2-amino-7-nitro-1,3-benzothiazol-6-yl)oxy]-2-fluorophenyl}-2-chloro-3-(1-cyano-1-methylethyl)benzamide
Potassium thiocyanate (1.63 g, 16.8 mmol) was suspended in acetic acid (40 mL), and the suspension was stirred at room temperature for 10 min. N-[5-(4-Amino-2-nitrophenoxy)-2-fluorophenyl]-2-chloro-3-(1-cyano-1-methylethyl)benzamide (1.57 g, 3.36 mmol) was added to the obtained solution, and the mixture was further stirred at room temperature for 10 min. A solution of bromine (966 mg, 6.05 mmol) in acetic acid (10 mL) was slowly added dropwise to the obtained solution, and the mixture was stirred at room temperature for 2 hr. A solution of bromine (400 mg, 2.50 mmol) in acetic acid (5 mL) was added, and the mixture was further stirred at room temperature for 6 hr. The resulting yellow insoluble material was filtered off and washed with acetic acid. The filtrate and washings were combined and the mixture was concentrated under reduced pressure. The obtained residue was suspended in ethyl acetate (400 mL)/tetrahydrofuran (200 mL), washed successively with saturated aqueous sodium hydrogen carbonate solution (500 mL) and saturated brine (500 mL), and dried over anhydrous sodium sulfate. Insoluble material was filtered off, and the filtrate was concentrated under reduced pressure. The residue was purified by basic silica gel column chromatography (eluate: ethyl acetate), and the obtained solution was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate/n-hexane=50/50→100/0), and the obtained solution was concentrated under reduced pressure to give the title compound (458 mg, 26%) as a yellow powder.

reactant | Potassium thiocyanate | 16.8 mmol, 1.63 g | [S-]C#N.[K+]
reactant | N-[5-(4-Amino-2-nitrophenoxy)-2-fluorophenyl]-2-chloro-3-(1-cyano-1-methylethyl)benzamide | 3.36 mmol, 1.57 g | NC1=CC(=C(OC=2C=CC(=C(C2)NC(C2=C(C(=CC=C2)C(C)(C)C#N)Cl)=O)F)C=C1)[N+](=O)[O-] | C23H18ClFN4O4
reactant | bromine | 6.05 mmol, 966 mg | BrBr | Br2
reactant | bromine | 2.50 mmol, 400 mg | BrBr | Br2
solvent | acetic acid | 40 mL | C(C)(=O)O | C2H4O2
solvent | acetic acid | 10 mL | C(C)(=O)O | C2H4O2
solvent | acetic acid | 5 mL | C(C)(=O)O | C2H4O2
product | N-{5-[(2-amino-7-nitro-1,3-benzothiazol-6-yl)oxy]-2-fluorophenyl}-2-chloro-3-(1-cyano-1-methylethyl)benzamide | 458 mg, 26% | NC=1SC2=C(N1)C=CC(=C2[N+](=O)[O-])OC=2C=CC(=C(C2)NC(C2=C(C(=CC=C2)C(C)(C)C#N)Cl)=O)F | C24H17ClFN5O4S
